US08614220B2
Step 1. 1-[2-(4-Methyl-piperazin-1-yl)-6-nitro-phenyl]-ethanone
In a cylindrical quartz tube were placed 1-(2-chloro-6-nitro-phenyl)-ethanone (300 mg, 1.5 mmol) and N-methyl-piperazine (12 ml, 180 mmol). The reaction was heated for 40 hours at 120° C. The solvent was removed under reduced pressure and the residue was dissolved in DCM. The solution was washed twice with water and the organic phase was dried over anhydrous Na2SO4. The crude was purified by flash chromatography (acetone/MeOH 75:25) affording the desired compound (272 mg, 46% yield), as a yellow solid.

reactant | 1-(2-chloro-6-nitro-phenyl)-ethanone | 1.5 mmol, 300 mg | ClC1=C(C(=CC=C1)[N+](=O)[O-])C(C)=O | C8H6ClNO3
reactant | N-methyl-piperazine | 180 mmol, 12 ml | CN1CCNCC1 | C5H12N2
product | 1-[2-(4-Methyl-piperazin-1-yl)-6-nitro-phenyl]-ethanone | 272 mg, 46% yield | CN1CCN(CC1)C1=C(C(=CC=C1)[N+](=O)[O-])C(C)=O | C13H17N3O3
